US07435837B2
Treatment of 2-allyl-6-benzylphenol (12.11 g, 0.054 mol) with potassium carbonate (30.00 g, 0.217 mol), benzyl bromide (10.67 g, 0.062 mol), and tetrabutylammonium iodide (2.01 g, 0.005 mol) generally according to the procedure described for Intermediate 1 provided 1-allyl-3-benzyl-2-(benzyloxy)benzene. Treatment of 1-allyl-3-benzyl-2-(benzyloxy)benzene (16.35 g, 0.052 mol) with AD-mix-ox (76.02 g) generally according to the procedure described for Intermediate 2 gave 9.82 (54%, 25% ee) of (±)-3-[3-benzyl-2-(benzyloxy)phenyl]propane-1,2-diol as a white crystalline solid. mp 55-58° C.; Anal. calcd. for C23H24O3: C, 79.28; H, 6.94. Found: C, 78.89; H, 6.96.

reactant | 2-allyl-6-benzylphenol | 0.054 mol, 12.11 g | C(C=C)C1=C(C(=CC=C1)CC1=CC=CC=C1)O | C16H16O
reactant | potassium carbonate | 0.217 mol, 30.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.062 mol, 10.67 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-allyl-3-benzyl-2-(benzyloxy)benzene | C(C=C)C1=C(C(=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H22O
reactant | 1-allyl-3-benzyl-2-(benzyloxy)benzene | 0.052 mol, 16.35 g | C(C=C)C1=C(C(=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H22O
catalyst | tetrabutylammonium iodide | 0.005 mol, 2.01 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | (±)-3-[3-benzyl-2-(benzyloxy)phenyl]propane-1,2-diol | 54% | C(C1=CC=CC=C1)C=1C(=C(C=CC1)CC(CO)O)OCC1=CC=CC=C1 | C23H24O3
